US06099592
c) Preparation of 5-amino-1-methyl-4-nitro-3-tert-butylpyrazole
To 30 cm3 of concentrated sulphuric acid were added 8.5 g (0.044 mol) of 5-acetamido-1-methyl-3-tert-butylpyrazole, at 5° C. with vigorous stirring, followed by 2.5 cm3 (0.066 mol) of fuming nitric acid. After stirring for 2 hours, the reaction mixture was poured onto 100 g of ice and stirred for 30 minutes. The solid obtained was filtered off on a sinter funnel, washed with 20 cm3 of water and then dried under vacuum at 40° C. 8.5 g of the expected product were obtained in the form of a yellow solid, the melting point of which was 124° C.

reactant | 5-acetamido-1-methyl-3-tert-butylpyrazole | 0.044 mol, 8.5 g | C(C)(=O)NC1=CC(=NN1C)C(C)(C)C | C10H17N3O
reactant | nitric acid | 0.066 mol, 2.5 cm3 | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 30 cm3 | S(O)(O)(=O)=O | H2O4S
product | 5-amino-1-methyl-4-nitro-3-tert-butylpyrazole | 8.5 g | NC1=C(C(=NN1C)C(C)(C)C)[N+](=O)[O-] | C8H14N4O2
